US03987047
3-Isobutyryl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline was prepared by acylation of 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline with isobutyryl chloride in pryidine.

reactant | 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 3-Isobutyryl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | Yield: 50% | C(C(C)C)(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | C18H22N2O
